US07105679B2
3-[2,4-Bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-bromomethyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one
A 250 mL 3-neck round bottom flask was equipped with a magnetic stirrer, a rubber stopper and an argon inlet/outlet adapter. This vessel was charged with THF (20 mL) via syringe, iPr2NH (1.8 mL, 14.0 mmol) via syringe and cooled to −10° C. in an ice/methanol bath. n-Butyl lithium (1.85 M (titrated) via syringe, 6.3 mL, 11.7 mmol) in hexane was added dropwise via syringe at −10° C., stirred for 15 min at −10° C. To the solution was added 3-[2,4-bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one (5.1 g, 7.8 mol) in THF (20 mL) drop-wise via syringe. The mixture was stirred at −10° C. for 2.5 h. This mixture was added dropwise via syringe to a solution of Br2 (0.76 mL, 2 eq) in −78° C. THF (100 mL) via syringe that was contained in a 1-L 3-neck round bottom flask equipped with mechanical stirrer and septum under N2. After the addition was complete, the mixture was stirred for 5 min at −78° C. and then diluted with EtOAc (0.5 L) via syringe, saturated NaHCO3 (50 mL) via syringe and saturated Na2SO3 (100 mL) via syringe. The dry ice/acetone bath was removed and the mixture was allowed to warm to room temperature while stirring. The organic phase was separated and the aqueous phase was back-extracted with EtOAc (2×0.2 L). The combined organic phase was washed with brine (2×0.5 L) and concentrated in vacuo to yield the title compound as a crude semi-solid.

reactant | iPr2NH | 14.0 mmol, 1.8 mL | N(C(C)C)C(C)C | C6H15N
reactant | n-Butyl lithium | 11.7 mmol, 1.85 M, 6.3 mL | C(CCC)[Li]
reactant | 3-[2,4-bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one | 7.8 mol, 5.1 g | C[Si](CCOCOC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)C=1C(OC2=CC(=CC=C2C1C)OCOCC[Si](C)(C)C)=O)(C)C | C34H54O8Si3
reactant | Br2 | 0.76 mL, 2 eq | BrBr | Br2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | Na2SO3 | 100 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 0.5 L | CCOC(=O)C | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-[2,4-Bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-bromomethyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one | C[Si](CCOCOC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)C=1C(OC2=CC(=CC=C2C1CBr)OCOCC[Si](C)(C)C)=O)(C)C | C34H53BrO8Si3
